US07223879B2
N-(1-Naphthyl)benzamide
Following the general procedure, 1-naphthyl tosylate (149 mg, 0.5 mmol) was coupled with benzamide (90 mg, 0.75 mmol) with the reaction time of 20 h. Chromatography on silica gel column with 4:1 hexane:ethyl acetate gave 117 mg (95%) of the title compound as a white solid.

reactant | 1-naphthyl tosylate | 0.5 mmol, 149 mg | S(=O)(=O)(OC1=CC=CC2=CC=CC=C12)C1=CC=C(C)C=C1 | C17H14O3S
reactant | benzamide | 0.75 mmol, 90 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-Naphthyl)benzamide | 117 mg, 95% | C1(=CC=CC2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C17H13NO
